US04033751
8.0 Parts of 4-chloro-2-fluorophenylhydrazine and 9.2 parts of ethyl 2-cyclohexanoneacetate [bp 92°-93°, 0.5 mm Hg; prepared by the method described by A. Sergre, et al., J. Amer. Chem. Soc., 79 3503 (1957)] were dissolved in 75 parts of glacial acetic acid, and the resulting solution was refluxed for 16 hours. The reaction solvent was removed under a reduced pressure of 300 mm Hg, and the residual brown oil was dissolved in 150 parts of methylene chloride. The organic solution was washed with saturated aqueous sodium bicarbonate solution, dried with anhydrous magnesium sulfate and the solvent was removed under a reduced pressure of 300 mm Hg to give 2-(4-chloro-2-fluorophenyl)-4,4a,5,6,7,8-hexahydro-3(2H)-cinnolinone as a brown oil that solidified on scratching. Purification was achieved by recrystallization from cyclohexane to yield 5.9 parts of tan solid, mp 110°-112°.

reactant | 4-chloro-2-fluorophenylhydrazine | ClC1=CC(=C(C=C1)NN)F | C6H6ClFN2
reactant | ethyl 2-cyclohexanoneacetate | CCOC(=O)CC1CCCCC1=O | C10H16O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-chloro-2-fluorophenyl)-4,4a,5,6,7,8-hexahydro-3(2H)-cinnolinone | ClC1=CC(=C(C=C1)N1N=C2CCCCC2CC1=O)F | C14H14ClFN2O
